datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"ClCC[N+:21]1([H:20])CCOCC1.Cn1cnc2c1c([O-])[n:10]c([O-])[n+]2C>>ClCC[N:21]1CCOCC1.Cn1cnc2c1c([O-])[n+:10]([H:20])c([O-])[n+]2C 10=20;20,21=21",
"CCOC(=O)c1c[n+:21]([H:20])c2cc([N+](=O)[O-])ccc2c1[O-].O=C(C1=C/C=C/C=C\C=C/1)[O-:10]>>CCOC(=O)c1c[n:21]c2cc([N+](=O)[O-])ccc2c1[O-].O=C(C1=C\C=C\C=C/C=C\1)[O:10][H:20] 10=20;20,21=21",
"C[NH:10]CC(=O)[O-].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[NH+:10](CC(=O)[O-])[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Fc1ccc([N-:10]C(=S)c2ccccc2)cc1.O=[N+]([O-])c1cccc2c[n+:21]([H:20])ccc12>>Fc1ccc([N:10](C(=S)c2ccccc2)[H:20])cc1.O=[N+]([O-])c1cccc2c[n:21]ccc12 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].C[Si](C)(C)CC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[Si](C)(C)CC[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)(C)C1CCn2nnnc2C(C(=O)[O:21][H:20])C1.Cc1c[n:10]c2c(ccc3c(C)ccnc32)c1C>>CC(C)(C)C1CCn2nnnc2C(C(=O)[O-:21])C1.Cc1c[n+:10]([H:20])c2c(ccc3c(C)ccnc32)c1C 10=20;20,21=21",
"O=C1O[C@@H]([C@H](O)CO)C([O-])=C1[O-:10].c1ccc(CNc2nc[n+:21]([H:20])c3[nH]cnc23)cc1>>O=C1O[C@@H]([C@H](O)CO)C([O-])=C1[O:10][H:20].c1ccc(CNc2nc[n:21]c3[nH]cnc23)cc1 10=20;20,21=21",
"C[N+](C)(C)Cc1cccc(O)c1[O-:10].c1ccc2c(c1)CCCC2[NH2+:21][H:20]>>C[N+](C)(C)Cc1cccc(O)c1[O:10][H:20].c1ccc2c(c1)CCCC2[NH2:21] 10=20;20,21=21",
"[H:20][OH:21].CC(C)(C)[Si](C)(C)OC([C@H]1CCC2=N[N+](=[C-:10]N12)C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5>>[H:20][C:10]1=[N+](N=C2N1[C@H](CC2)C(C3=CC=CC=C3)(C4=CC=CC=C4)O[Si](C)(C)C(C)(C)C)C5=CC=CC=C5.[OH-:21] 10=20;20,21=21",
"Cc1cc(N)ccc1S(=O)(=O)[N:21](c1nccs1)[H:20].N#CC(C#N)=N[N-:10]c1ccccc1Cl>>Cc1cc(N)ccc1S(=O)(=O)[N-:21]c1nccs1.N#CC(C#N)=N[N:10](c1ccccc1Cl)[H:20] 10=20;20,21=21",
"CC(C(=O)[O-])[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C(=O)[O-])[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CCOC(=O)/C(=N\[O-:10])C(C)=O.Nc1ccc(Cc2ccc([NH2+:21][H:20])cc2)cc1>>CCOC(=O)/C(=N\[O:10][H:20])C(C)=O.Nc1ccc(Cc2ccc([NH2:21])cc2)cc1 10=20;20,21=21",
"Nc1nc[nH+]c([S-:10])c1N.O=C(CS/C=C/c1ccccc1)[O:21][H:20]>>Nc1nc[nH+]c([S:10][H:20])c1N.O=C(CS/C=C/c1ccccc1)[O-:21] 10=20;20,21=21",
"C[N+:21]1([H:20])CC=CC1.c1ccc2c(CC[NH2:10])c[nH]c2c1>>C[N:21]1CC=CC1.c1ccc2c(CC[NH2+:10][H:20])c[nH]c2c1 10=20;20,21=21",
"C[NH:10]CC[S-].O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>C[NH+:10](CC[S-])[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"COc1ccc(-c2nnn[n:21]2[H:20])cc1.C[C@H]1O[C@H](O[C@H]2CC[C@H](N3C=CC(N)=NC3=O)O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[N:10](C)C>>COc1ccc(-c2nnn[n-:21]2)cc1.C[C@H]1O[C@H](O[C@H]2CC[C@H](N3C=CC(N)=NC3=O)O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[N+:10](C)(C)[H:20] 10=20;20,21=21",
"CN(C)c1ccc(C(c2ccc(N(C)C)cc2)=[NH+:21][H:20])cc1.COc1ccc2c3c([n-:10]c2c1)C(C)NCC3>>CN(C)c1ccc(C(c2ccc(N(C)C)cc2)=[NH:21])cc1.COc1ccc2c3c([n:10]([H:20])c2c1)C(C)NCC3 10=20;20,21=21",
"COc1nc2ccccc2[n:10]c1C.O=C(/C=C\C(=O)[O:21][H:20])NOCc1ccccc1>>COc1nc2ccccc2[n+:10]([H:20])c1C.O=C(/C=C\C(=O)[O-:21])NOCc1ccccc1 10=20;20,21=21",
"CCC[O-:10].C[C:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)([N+](=O)[O-])[H:20]>>CCC[O:10][H:20].C[C-:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[N+](=O)[O-] 10=20;20,21=21",
"COc1ccc(C(=O)[O:21][H:20])c(C)c1.Clc1ccnc2c1ccc1c(Cl)cc[n:10]c12>>COc1ccc(C(=O)[O-:21])c(C)c1.Clc1ccnc2c1ccc1c(Cl)cc[n+:10]([H:20])c12 10=20;20,21=21",
"C[NH2+]CC[N+:21](C)(CC[NH3+])[H:20].Cc1ccccc1[NH:10]C1CCCCC1>>C[NH2+]CC[N:21](C)CC[NH3+].Cc1ccccc1[NH+:10](C1CCCCC1)[H:20] 10=20;20,21=21",
"CC(C[NH2:10])c1ccccc1.Cc1cc([O:21][H:20])cc(C)[o+]1>>CC(C[NH2+:10][H:20])c1ccccc1.Cc1cc([O-:21])cc(C)[o+]1 10=20;20,21=21",
"Cc1cc2c(C)c(C)c3cccnc3c2[n:10]c1.[S-]c1c2[nH]cnc2nc[n+:21]1[H:20]>>Cc1cc2c(C)c(C)c3cccnc3c2[n+:10]([H:20])c1.[S-]c1c2[nH]cnc2nc[n:21]1 10=20;20,21=21",
"CC(=O)c1ccccc1[O-:10].CC(C)CS/C(c1ccccc1)=[NH+:21]\[H:20]>>CC(=O)c1ccccc1[O:10][H:20].CC(C)CSC(c1ccccc1)=[NH:21] 10=20;20,21=21",
"CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.C[NH:10]C>>CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.C[NH+:10](C)[H:20] 10=20;20,21=21",
"CC(C)(C)[NH:10]C1CCCCC1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC(C)(C)[NH+:10](C1CCCCC1)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"N[C@@H]1C[C@@H]1[NH2+:21][H:20].OCCCc1cc[n:10]cc1>>N[C@@H]1C[C@@H]1[NH2:21].OCCCc1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CC(C#N)C(C)(C)C(=O)[O:21][H:20].OCC1=CC[N:10]2CC[C@@H](O)[C@@H]12>>CC(C#N)C(C)(C)C(=O)[O-:21].OCC1=CC[N+:10]2([H:20])CC[C@@H](O)[C@@H]12 10=20;20,21=21",
"COc1c(CN)cccc1[O:21][H:20].Cc1c[n:10]c(C)cc1N>>COc1c(CN)cccc1[O-:21].Cc1c[n+:10]([H:20])c(C)cc1N 10=20;20,21=21",
"NNC(=O)C(Cc1c[nH]c[n:10]1)NC(=O)OCc1ccccc1.c1cnc2c([O:21][H:20])[nH+]ccc2c1>>NNC(=O)C(Cc1c[nH]c[n+:10]1[H:20])NC(=O)OCc1ccccc1.c1cnc2c([O-:21])[nH+]ccc2c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(C)[C@H]1CC[C@H](C)C[C@@H]1[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(C)[C@H]1CC[C@H](C)C[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
